US07608270B2
Attachment of Hexadecylamine
A mixture of AZT monophosphorylsporopollenin (0.3 g; 1 mmol/g) and DCC (2.1 mmol) in DMSO (10 cm3) was stirred for 18 h. The resulting hexadecylamino(1 mmol/g)/AZT monophosphoramidate (1 mmol/g) sporopollenin (E, FIG. 8) was removed by filtration and dried under vacuum.

reactant | AZT | CC1=CN(C(=O)NC1=O)[C@H]2C[C@@H]([C@H](O2)CO)N=[N+]=[N-] | C10H13N5O4
reactant | DCC | 2.1 mmol | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | DMSO | 10 cm3 | CS(=O)C | C2H6OS
product | Hexadecylamine | C(CCCCCCCCCCCCCCC)N | C16H35N
